US05326780
1-benzyloxymethyl-2,4-diethyl-5-phenylthioimidazole (I-19)
In a mixture of 5 ml of dry tetrahydrofuran and 2.5 ml of dry hexamethylphosphoric triamide is dissolved 150 mg of 1-benzyloxymethyl-4-ethyl-5-phenylthioimidazole (I-4) (0.46 mmol) obtained in Example 4, and the resulting solution is chilled at -78° C. To the solution is added dropwise 1.64M n-butyl lithium solution in 0.49 ml of hexane (0.8 mmol). Five minutes later, 110 mg of ethyl iodide (0.8 mmol) is added to the mixture, which mixture is allowed to stand for 10 minutes, when it is poured onto ice water and extracted with ethyl ether. The extract is washed with water, dried over sodium sulfate and filtered. The filtrate is chromatographed on a column of silica gel, eluting with ethyl acetate/n-hexane (1: 2 ) to give 50 mg of the product (I-19) as an oil. Yield, 31%.

reactant | 1-benzyloxymethyl-4-ethyl-5-phenylthioimidazole | 0.46 mmol, 150 mg | C(C1=CC=CC=C1)OCN1C=NC(=C1SC1=CC=CC=C1)CC | C19H20N2OS
reactant | n-butyl lithium | 1.64M | C(CCC)[Li]
reactant | hexane | 0.8 mmol, 0.49 ml | CCCCCC | C6H14
reactant | ethyl iodide | 0.8 mmol, 110 mg | C(C)I | C2H5I
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | hexamethylphosphoric triamide | 2.5 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 1-benzyloxymethyl-2,4-diethyl-5-phenylthioimidazole | 50 mg | C(C1=CC=CC=C1)OCN1C(=NC(=C1SC1=CC=CC=C1)CC)CC | C21H24N2OS
